US07981914B2
A mixture of 2′-methoxy-5-tetrazol-1-yl-biphenyl-3-carboxylic acid methyl ester (8.6 g, 27.7 mmol), 3N aqueous NaOH (28.5 mL) and MeOH (28.5 mL) was stirred at room temperature for 18 hours. The reaction mixture was filtered and the collected solid was partitioned between 1N aqueous HCl and methylene chloride. A white precipitate formed in the methylene chloride layer and was collected by filtration, washed with water and methylene chloride, and dried to give 4.2 g (46%) of 2′-methoxy-5-tetrazol-1-yl-biphenyl-3-carboxylic acid, MP=214.0-215.3° C., MS (M+H)=297.

reactant | 2′-methoxy-5-tetrazol-1-yl-biphenyl-3-carboxylic acid methyl ester | 27.7 mmol, 8.6 g | COC(=O)C=1C=C(C=C(C1)N1N=NN=C1)C1=C(C=CC=C1)OC | C16H14N4O3
reactant | NaOH | 3N, 28.5 mL | [OH-].[Na+]
solvent | MeOH | 28.5 mL | CO | CH4O
product | 2′-methoxy-5-tetrazol-1-yl-biphenyl-3-carboxylic acid | 4.2 g, 46% | COC1=C(C=CC=C1)C1=CC(=CC(=C1)N1N=NN=C1)C(=O)O | C15H12N4O3
